US05273999
A mixture of 0.154 g (0.8 mmol) of 6-hydroxy-7-propyl-2H-benzofuran-3-one, 0.27 g (0.82 mmol) of 2-[(5-bromopentyl)oxy]benzenepropanoic acid methyl ester, 0.382 g (2.77 mmol) of anhydrous granular potassium carbonate, and 6 mL of anhydrous N,N-dimethylformamide was stirred at 60°-65° C. for 3 hr. The resulting slurry was cooled and the solvent was removed in vacuo. The residue was purified by flash chromatography on silica gel, eluting with 7:3 and 6:4 hexane-ethyl acetate. There was obtained 0.24 g (68%) of 2-[5-[(2,3-dihydro-3-oxo-7-propylbenzofuran-6-yl)oxy]pentyloxy]benzenepropanoic acid methyl ester as a pale-yellow oil. A 0.1 g (0.227 mmol) sample of this material was dissolved in 10 mL of tetrahydrofuran and 1 mL of 3N aqueous HCl was added. The mixture was stirred at room temperature for 2.5 hr then heated at 60°-65° C. for 28 hr. After being stirred overnight at room temperature, the solution was diluted with water and worked-up with dichloromethane in the usual manner giving a viscous oil. Flash chromatography on silica gel, eluting with ethyl acetate and 9:1 ethyl acetate-methanol gave 0.04 g (41.5%) of 2-[ 5-[(2,3-dihydro-3-oxo-7-propylbenzofuran-6-yl)oxy]pentyloxy]benzenepropanoic acid as a pale-yellow gum which crystallized. Trituration of a sample with ether-hexane gave a pale-yellow solid, mp 101°-102.5° C.

reactant | 6-hydroxy-7-propyl-2H-benzofuran-3-one | 0.8 mmol, 0.154 g | OC1=C(C2=C(C(CO2)=O)C=C1)CCC | C11H12O3
reactant | 2-[(5-bromopentyl)oxy]benzenepropanoic acid methyl ester | 0.82 mmol, 0.27 g | COC(CCC1=C(C=CC=C1)OCCCCCBr)=O | C15H21BrO3
reactant | potassium carbonate | 2.77 mmol, 0.382 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 2-[5-[(2,3-dihydro-3-oxo-7-propylbenzofuran-6-yl)oxy]pentyloxy]benzenepropanoic acid methyl ester | 0.24 g, 68% | COC(CCC1=C(C=CC=C1)OCCCCCOC1=C(C2=C(C(CO2)=O)C=C1)CCC)=O | C26H32O6
